US05668137
4'-Hydroxy- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)-2-biphenylsulphonamide (0.5 g) was added to a solution of methyl bromoacetate (0.12 ml) in acetone (20 ml) containing potassium carbonate (0.166 g). The mixture was stirred for 18 hours and then heated under reflux for 1 hour and cooled. The solvent was removed by evaporation and water (20 ml) was added to the residue. The mixture was then extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed successively with 2M sodium hydroxide solution (15 ml), water (20 ml) and brine (10 ml) and then dried (MgSO4). The solvent was removed by evaporation and the residue was dissolved in dimethoxyethane (5 ml) and methanol (5 ml). 2M Sodium hydroxide solution (1 ml) was added and the mixture was stirred for 18 hours and evaporated to dryness. Water (20 ml) was added to the residue and the mixture was washed with ethyl acetate (2×15 ml). The aqueous phase was acidified to pH2 with 2M hydrochloric acid and extracted with ethyl acetate (3×15 ml). The combined organic phases were extracted with saturated aqueous sodium bicarbonate solution (2×15 ml) and the combined aqueous phase was acidified with 6M hydrochloric acid and extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with water (15 ml) and brine (15 ml) and dried (MgSO4). The solvent was removed by evaporation and the residue crystallised from ether to give 4'-carboxymethoxy-N-(3-methoxy-5-methylpyrazin-2-yl)-2-biphenylsulphonamide (0.123 g) as a solid, m.p. 165°-166° C.; microanalysis found: C, 55.9; H, 4.5; N, 9.9%; C20H19N3O6S requires: C, 55.9; H, 4.46; N, 9.78%; 1H NMR (d6 -DMSO): 2.24 (s, 3H), 3.84 (s, 3H), 4.67 (s, 2H), 6.78-6.95 (m, 2H), 7.16 (d, 2H), 7.27 (d, 1H); 7.49-7.66 (m, 3H), 8.06 (d, 1H), 9.50 (br s, 1H); mass spectrum (-ve ESP): 428 (M-H)-.

reactant | 4'-Hydroxy- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)-2-biphenylsulphonamide | 0.5 g | OC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C23H25N3O6S
reactant | methyl bromoacetate | 0.12 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 0.166 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4'-carboxymethoxy-N-(3-methoxy-5-methylpyrazin-2-yl)-2-biphenylsulphonamide | 0.123 g | C(=O)(O)COC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC1=NC=C(N=C1OC)C | C20H19N3O6S
